** sch_path: /Users/rwalters/GitHub/sg13g2-bandgap/.loom/worktrees/issue-149/design/bandgap_top.sch
**.subckt bandgap_top vdd vss vref
*.iopin vdd
*.iopin vss
*.iopin vref
Xx1 vdd vss fb sns1 sns2 vref bandgap_core
Xx2 sns2 sns1 vss fb vdd bandgap_amp
Xx3 vdd vss sns1 fb bandgap_startup
**.ends

* expanding   symbol:  bandgap_core.sym # of pins=6
** sym_path: /Users/rwalters/GitHub/sg13g2-bandgap/.loom/worktrees/issue-149/design/bandgap_core.sym
** sch_path: /Users/rwalters/GitHub/sg13g2-bandgap/.loom/worktrees/issue-149/design/bandgap_core.sch
.subckt bandgap_core vdd vss fb sns1 sns2 vref


*.iopin vdd
*.iopin vss
*.iopin fb
*.iopin sns1
*.iopin sns2
*.iopin vref
XM1 sns1 fb vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XQ1 sns1 sns1 vss vss npn13G2 Nx=1
XM2A sns2 fb vdd vdd sg13_hv_pmos w=9u l=1u ng=1 m=1
XM2B sns2 fb vdd vdd sg13_hv_pmos w=1u l=1u ng=1 m=1
XR2 sns2 cb2 sub! rppd w=2u l=82.7u m=1 b=0
XQ2 cb2 cb2 vss vss npn13G2 Nx=8
XM3A vref fb vdd vdd sg13_hv_pmos w=8u l=1u ng=1 m=1
XM3B vref fb vdd vdd sg13_hv_pmos w=1u l=1u ng=1 m=1
XM3C vref fb vdd vdd sg13_hv_pmos w=1u l=1u ng=1 m=1
XR1 vref cb3 sub! rppd w=2u l=511u m=1 b=0
XQ3 cb3 cb3 vss vss npn13G2 Nx=1
.ends


* expanding   symbol:  bandgap_amp.sym # of pins=5
** sym_path: /Users/rwalters/GitHub/sg13g2-bandgap/.loom/worktrees/issue-149/design/bandgap_amp.sym
** sch_path: /Users/rwalters/GitHub/sg13g2-bandgap/.loom/worktrees/issue-149/design/bandgap_amp.sch
.subckt bandgap_amp in_p in_n vss out vdd


*.iopin vdd
*.iopin vss
*.iopin in_p
*.iopin in_n
*.iopin out
XMTAIL tail out vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XMP1 d1 in_p tail vdd sg13_hv_pmos w=20u l=1u ng=1 m=1
XMP2 d2 in_n tail vdd sg13_hv_pmos w=20u l=1u ng=1 m=1
XMP3 pn pn vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XMP4 out pn vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
XMN1 d1 d1 vss vss sg13_hv_nmos w=10u l=1u ng=1 m=1
XMN2 d2 d2 vss vss sg13_hv_nmos w=10u l=1u ng=1 m=1
XMN3 out d1 vss vss sg13_hv_nmos w=10u l=1u ng=1 m=1
XMN4 pn d2 vss vss sg13_hv_nmos w=10u l=1u ng=1 m=1
.ends


* expanding   symbol:  bandgap_startup.sym # of pins=4
** sym_path: /Users/rwalters/GitHub/sg13g2-bandgap/.loom/worktrees/issue-149/design/bandgap_startup.sym
** sch_path: /Users/rwalters/GitHub/sg13g2-bandgap/.loom/worktrees/issue-149/design/bandgap_startup.sch
.subckt bandgap_startup vdd vss sns1 fb


*.iopin vdd
*.iopin vss
*.iopin sns1
*.iopin fb
XRPU vdd det sub! rhigh w=1u l=1411.3u m=1 b=0
XMSENSE det sns1 vss vss sg13_hv_nmos w=10u l=0.5u ng=1 m=1
XMKFB fb det vss vss sg13_hv_nmos w=2u l=0.5u ng=1 m=1
.ends

.end
